US06063816
Step A: 3-(Isobutylamino)tetrahydro-2-thiophenone
4.6 mmol of triethylamine are added at 0° C., under an inert atmosphere, to a solution of 4.23 mmol of D-homocysteine thiolactone hydrochloride and 8.46 mmol of isobutyraldehyde in 20 ml of methanol. After stirring for 4 hours at ambient temperature, the reaction mixture is cooled to 0° C. and 8.8 mmol of NaCNBH3 are slowly added in the course of 40 minutes. After stirring for 30 minutes at 0° C., the reaction mixture is hydrolysed and then extracted with ether. The combined organic phases are then washed with a saturated NaCl solution, dried over sodium sulphate, filtered and concentrated under reduced pressure. Chromatography on silica gel (dichloromethane/methanol: 99/1) allows the expected product to be isolated in the form of syrup.

reactant | triethylamine | 4.6 mmol | C(C)N(CC)CC | C6H15N
reactant | D-homocysteine thiolactone hydrochloride | 4.23 mmol | C1CSC(=O)[C@@H]1N.Cl
reactant | isobutyraldehyde | 8.46 mmol | C(C(C)C)=O | C4H8O
reactant | NaCNBH3 | 8.8 mmol | [BH3-]C#N.[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 3-(Isobutylamino)tetrahydro-2-thiophenone | C(C(C)C)NC1C(SCC1)=O | C8H15NOS
